US05583233
A. 2-Isopropyl-4-(methanesulfonyloxymethyl)thiazole
A solution of 1.2 mmol of 4-(hydroxymethyl)-2-isopropylthiazole and 1.3 mmol of diisopropylethylamine in 20 ml of dichloromethane was cooled to -20° C. and treated dropwise with 1.3 mmol of methanesulfonyl chloride. The resulting mixture was stirred for 1 h, quenched with aqueous citric acid, separated, dried over Na2SO4, and concentrated in vacuo to provide the desired compound.

reactant | 4-(hydroxymethyl)-2-isopropylthiazole | 1.2 mmol | OCC=1N=C(SC1)C(C)C | C7H11NOS
reactant | diisopropylethylamine | 1.3 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.3 mmol | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Isopropyl-4-(methanesulfonyloxymethyl)thiazole | C(C)(C)C=1SC=C(N1)COS(=O)(=O)C | C8H13NO3S2
